US07858781B2
(1) Step A: 4-Hydroxy-1H-indole-2-carboxylic acid methyl ester (75)
To an ice cold solution of 4-Methyloxy-1H-indole-2-carboxylic acid methyl ester (1 g, 4.87 mmol) in DCM (10 ml) is added BBr3 (1M in DCM, 4.9 ml, 4.9 mmol). It is stirred for 1 hour and another equivalent (4.9 ml) of BBr3 is added. After another hour, the mixture is poured on ice and the pH is adjusted to 7 with sodium bicarbonate. Extraction with DCM gave a yellow powder.

reactant | 4-Methyloxy-1H-indole-2-carboxylic acid methyl ester | 4.87 mmol, 1 g | COC(=O)C=1NC2=CC=CC(=C2C1)OC | C11H11NO3
reactant | BBr3 | 4.9 mmol, 1M, 4.9 ml | B(Br)(Br)Br | BBr3
reactant | BBr3 | 4.9 ml | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=CC(=C2C1)O | C10H9NO3
